US08242153B2
a) rac-(3-Iodo-1-trifluoromethyl-propyl)-benzene
To a stirred solution of triphenylphosphine (3.93 g) and imidazole (1.02 g) in dichloromethane (20 ml) under an argon atmosphere was added slowly iodine (3.81 g) and rac-4,4,4-trifluoro-3-phenyl-butan-1-ol (2.04 g, CAS 65948-16-5). The mixture was stirred for 2 hours at room temperature, then dichloromethane (50 ml) was added and mixture was extracted with saturated sodium thiosulfate solution (50 ml) and hydrochloric acid (1N, 25 ml). The organic layer was dried over MgSO4 and evaporated. The residue was suspended in ether and filtered to remove insoluble triphenylphosphine oxide. The ether was evaporated and the residue was purified by column chromatography (SiO2, heptane/EtOAc=9:1) to yield a light yellow liquid, (1.99 g, 63%).

reactant | triphenylphosphine | 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 1.02 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 3.81 g | II | I2
reactant | rac-4,4,4-trifluoro-3-phenyl-butan-1-ol | 2.04 g | FC(C(CCO)C1=CC=CC=C1)(F)F | C10H11F3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | rac-(3-Iodo-1-trifluoromethyl-propyl)-benzene | ICCC(C(F)(F)F)C1=CC=CC=C1 | C10H10F3I
